US04810713
4-(3-Chloropropoxy)-3-methoxybenzeneacetic acid ethyl ester
A mixture of 50 g (0.238 mole) of ethyl homovanillate, 75 g (0.476 mole) of 1-bromo-3-chloropropane and 98.7 g (0.71 mole) of anhydrous potassium carbonate in 1 liter of acetone was heated at reflux for 24 hr. The mixture was filtered and the filtrate was concentrated under reduced pressure to give an oil which gradually crystallized to a semi-solid. The solid was recrystallized from ethyl ether-petroleum ether (30°-60° C.) to yield 44.4 g (65%) of white solid, m.p. 36°-38° C.

reactant | ethyl homovanillate | 0.238 mole, 50 g | C(CC1=CC(OC)=C(O)C=C1)(=O)OCC | C11H14O4
reactant | 1-bromo-3-chloropropane | 0.476 mole, 75 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.71 mole, 98.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 4-(3-Chloropropoxy)-3-methoxybenzeneacetic acid ethyl ester | 44.4 g, 65% | C(C)OC(CC1=CC(=C(C=C1)OCCCCl)OC)=O | C14H19ClO4
